US04071684
A process for preparing 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine which comprises reacting benzyl cyanide with benzyl chloride to produce 2,3-diphenylpropionitrile and cyclizing the 2,3-diphenylpropionitrile with 2-aminoethylhydrazine in the presence of a catalytic amount of elemental sulfur to give 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine.

reactant | 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1=NNCCN1 | C17H19N3
reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 2,3-diphenylpropionitrile | C1(=CC=CC=C1)C(C#N)CC1=CC=CC=C1 | C15H13N
